US07253286B2
4-(3-Chloro-4-(((cyclopropylamino)carbonyl)amino)phenoxy)-7-((2R)-3-diethylamino-2-hydroxypropoxy)-6-quinoline carboxamide
After adding (2R)oxiran-2-ylmethyl 4-methyl-1-benzenesulfonate (308mg, 1.35 mmol), potassium carbonate (149 mg, 1.08 mmol) and dimethylformamide (9 ml) to 4-(3-chloro-4-(((cyclopropylamino)carbonyl)amino)phenoxy)-7-hydroxy-6-quinolinecarboxamide (372.0mg, 0.90 mmol), the mixture was stirred at 60° C. for 6 hours. Next, diethylamine (2 ml) was added and the mixture was further stirred overnight at 50° C. The reaction solution was distributed between ethyl acetate and water, and the organic layer was washed with water and saturated brine and then dried over anhydrous sodium sulfate. The solvent was distilled off, the residue was subjected to silica gel column chromatography (eluent—ethyl acetate:methanol=95:5), the fraction containing the target substance was concentrated, and crystals were precipitated from diethyl ether, filtered out and blow-dried to obtain the title compound (177.5 mg, 0.327 mmol, 36.3%) as white crystals.

reactant | (2R)oxiran-2-ylmethyl 4-methyl-1-benzenesulfonate | 1.35 mmol, 308mg | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC1 | C10H12O4S
reactant | potassium carbonate | 1.08 mmol, 149 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(3-chloro-4-(((cyclopropylamino)carbonyl)amino)phenoxy)-7-hydroxy-6-quinolinecarboxamide | 0.90 mmol, 372.0mg | ClC=1C=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)N)O)C=CC1NC(=O)NC1CC1 | C20H17ClN4O4
reactant | diethylamine | 2 ml | C(C)NCC | C4H11N
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
product | 4-(3-Chloro-4-(((cyclopropylamino)carbonyl)amino)phenoxy)-7-((2R)-3-diethylamino-2-hydroxypropoxy)-6-quinoline carboxamide | 0.327 mmol, 177.5 mg, 36.3% | ClC=1C=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)N)OC[C@@H](CN(CC)CC)O)C=CC1NC(=O)NC1CC1 | C27H32ClN5O5
